US06552188B2
Synthesis of 4-hydroxy-6-(3,4,5-trimethoxyphenyl)-pyrimidine
6-(3,4,5-Trimethoxyphenyl)pyrimidine-4-carboaldehyde (364 mg) was dissolved in methanol (50 mL), and to the solution sodium borohydride (25 mg) was added under ice cooling, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (chloroform:methanol=50:1) to obtain the title compound.

reactant | 6-(3,4,5-Trimethoxyphenyl)pyrimidine-4-carboaldehyde | 364 mg | COC=1C=C(C=C(C1OC)OC)C1=CC(=NC=N1)C=O | C14H14N2O4
reactant | sodium borohydride | 25 mg | [BH4-].[Na+]
reactant | methanol | 50 mL | CO | CH4O
product | 4-hydroxy-6-(3,4,5-trimethoxyphenyl)-pyrimidine | OC1=NC=NC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C13H14N2O4
